US04824834
The 1-hydroxymethyl-3-methoxy-4-phenylthiobenzene obtained above is dissolved in methylene chloride (372 ml), and thereto is added with strring thionyl chloride (9.12 ml) under ice cooling. The mixture is stirred for one hour, and the reaction mixture is washed with ice water (500 ml×2), and thereto is added ethyl acetate (500 ml). The mixture is washed in order with 5% aqueous sodium hydrogen carbonate solution (20 ml), water (200 ml) and saturated aqueous sodium chloride solution (200 ml×2), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 1-chloromethyl-3-methoxy-4-phenylthiobenzene.

reactant | 1-hydroxymethyl-3-methoxy-4-phenylthiobenzene | OCC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C14H14O2S
reactant | thionyl chloride | 9.12 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 372 ml | C(Cl)Cl | CH2Cl2
product | 1-chloromethyl-3-methoxy-4-phenylthiobenzene | ClCC1=CC(=C(C=C1)SC1=CC=CC=C1)OC | C14H13ClOS
